Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:3]([H:4])[H:5].[O:1]=[C:2]=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.35139531246
[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[H:10],-8.247276685720001
[C:1]#[C:10][C:8]([C:5]([C:3](=[C:2]([H:11])[H:12])[H:4])([H:6])[H:7])[H:9]>>[C:1][C:2]1=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]1([H:11])[H:12],0.980681838661
[H:1][O:2][C:3]([H:4])[C@@:6]([H:7])([C:8]([H:9])=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.2239193130800015
[O:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])=[C:5]([H:6])[H:7].[O:1]=[C:2][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],4.18503249107
[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:9]([H:10])([H:11])[O:12][H:13].[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[H:8],4.1662542699900005
[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.59107304281
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:11].[H:1][C:2]([H:3])/[C:4]([C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],4.67931188576
[H:1][O:2][C:3]#[C:4][O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:5]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-2.5799004032700004
[O:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],0.5174597652390001
[H:1][C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])([H:13])[H:14],-4.95721814699
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[O:5][O:6]>>[H:1][C:2]([H:3])([H:4])[O:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-2.89826014216
[O:1][C@:2]([H:3])([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:3].[O:1]=[C:2]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],0.182751015178
[H:1][C:2]#[C:3][C:5]([C:4])([H:6])[H:7]>>[H:1][C:2]1[C:3]2[C:4]1[C:5]2([H:6])[H:7],-1.77261778991
[H:1][C:2]#[C:3][C:4][C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3][C:4]#[C:5][C:8]([H:9])([H:10])[H:11].[O:6][H:7],3.2624774266000003
[H:1][O:2][C:3]([H:4])[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3][O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:4],2.88951044706
[H:1][O:2][C:3]([H:4])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.3319487724300005
[C:1]=[C:2]1[C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:9]1([H:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],0.6940069783
[O:1][C@@:2]([H:3])([O:4][H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2]([H:3])([O:4][H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1],4.32086148687
[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]#[C:8]>>[C:1][O:2][C:3]([H:4])[C:5]([H:6])=[C:7].[C:8],7.5089032050199975
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3],3.34914464389
[C:1][C:2]1[C:3]([H:4])[C:5]1([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]([C:2](=[C:3]([H:4])[C:5]#[C:6])[C:10]([H:11])([H:12])[H:13])([H:7])([H:8])[H:9],-0.97038747421
[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:4],4.2589679812300005
[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])[H:7])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8],4.3093683214
[H:1][C:2]#[C:3]/[C:4]([C:5]([H:6])[H:7])=[C:8](\[H:9])[O:10][H:11]>>[H:1][C:2]#[C:3][C:4]1[C:5]([H:6])([H:7])[C@:8]1([H:9])[O:10][H:11],0.1988782999509999
[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.08394644975
